US08580785B2
b) Preparation of 2,4,5-triamino-3-chloro-benzoic acid methyl ester
To a suspension of 4.4 g (16.19 mmol) of 4-amino-2-azido-3-chloro-5-nitro-benzoic acid methyl ester in 161 mL of a mixture EtOH:MeOH 2:1 (v/v), 161 mL of a saturated NH4Cl aqueous solution is added followed by the addition of 88 mL of THF. Then 5.2 g (81 mmol) of powdered zinc is added and the reaction is stirred at ambient temperature during 5 h. The suspension is diluted with CH2Cl2 and the organic phase is washed with brine (2 times) and then dried on Na2SO4. After filtration and evaporation 3.2 g (14.84 mmol, 92%) of a dark violet-red solid were obtained and used directly in the next step without more purification. LC/MS: 216/218 (M+1)+

reactant | 4-amino-2-azido-3-chloro-5-nitro-benzoic acid methyl ester | 16.19 mmol, 4.4 g | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])N)Cl)N=[N+]=[N-])=O | C8H6ClN5O4
reactant | EtOH MeOH | CCO.CO
reactant | NH4Cl | 161 mL | [NH4+].[Cl-]
reactant | THF | 88 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | zinc | 81 mmol, 5.2 g | [Zn] | Zn
product | 2,4,5-triamino-3-chloro-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)N)N)Cl)N)=O | C8H10ClN3O2
